US04640703
10 g (0.039 mole) of 4-(6-fluoroquinoxalin-2-yloxy)phenol, 9.6 g (0.047 mole) of 2-bromopropionic acid N-cyano-N-ethylamide and 8.1 g (0.058 mole) of potassium carbonate are stirred for 14 hours at room temperature in 100 ml of acetonitrile. The precipitated salts are removed by filtration and the filtrate is concentrated by evaporation. The residue is chromatographed through silica gel eluted with ethyl acetate/hexane (1:3), affording 7.1 g (48% of theory) of 2-[4-(6-fluoroquinoxalin-2-yloxy)phenoxy]propionic acid N-cyano-N-ethylamide with a melting point of 108°-111° C.

reactant | 4-(6-fluoroquinoxalin-2-yloxy)phenol | 0.039 mole, 10 g | FC=1C=C2N=CC(=NC2=CC1)OC1=CC=C(C=C1)O | C14H9FN2O2
reactant | 2-bromopropionic acid N-cyano-N-ethylamide | 0.047 mole, 9.6 g | C(#N)N(C(C(C)Br)=O)CC | C6H9BrN2O
reactant | potassium carbonate | 0.058 mole, 8.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-[4-(6-fluoroquinoxalin-2-yloxy)phenoxy]propionic acid N-cyano-N-ethylamide | 7.1 g, 48% | C(#N)N(C(C(C)OC1=CC=C(C=C1)OC1=NC2=CC=C(C=C2N=C1)F)=O)CC | C20H17FN4O3
